US07067517B2
Methyl-phenyl-carbamic acid 4-butoxy-phenyl ester
The title compound was prepared from 4-butoxy-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was recrystallized from ethanol (22%, white crystals). HPLC-MS m/z=300.1 (M+1), Rt: 5.20.

reactant | 4-butoxy-phenol | C(CCC)OC1=CC=C(C=C1)O | C10H14O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-butoxy-phenyl ester | C(CCC)OC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C18H21NO3
